Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amitriptyline / Norvasc
 
Attending: ___
 
Chief Complaint:
altered mental status
 
Major Surgical or Invasive Procedure:
CT head
 
History of Present Illness:
  ___ yo M w PMHx of CAD, T2DM, Neuropathy-wheelchair bound, Hx 
of Afib/flutter sp ablation in ___ w recurrence, PVD, Hx of 
colon ca presents with low blood pressure, ? altered mental 
status. According to pts' caregiver/friend, Mr. ___, 
pt's SBP was noted to be in 90's this AM w HR of 105. Pt was 
asymptomatic and Mr ___ gave him his metoprolol, sbp check 
later was in ___ but slowly improved to ___ w HR in ___. At 
around 8pm; however, Mr ___ could not get any bp readings and 
noted that pulse was very irregular, he called PCP's office who 
advised him to call ___. Pt was mentating throughout. Pt's 
insulin was also recently changed to lantus along w novolog 
sliding scale. Mr ___ gave pt 10 units of Novolog in eve for BS 
of >400 ___id not eat much in eve and BS was 63 on arrival 
to ED.
  Pt was also noted to have high ETOH level and according to 
both pt and friend, he recently has acutally cut down his 
drinking from drinking half a bottle of vodka daily to about 2 
mixed drinks a day. 
  Pt denies fevers, chills, chest pain, sob, abd pain, nausea, 
vomiting, diarrhea, urinary symptoms, bleeding.
  In ED, vitals were 97.8, 93/53, 65, 16, 98%RA. pt underwent 
Head CT as EMS had reported AMS and it was neg. Pt was noted to 
have lactic acid of 2.5 and given empiric doses of Vanc/Ceftaz. 
CXR was neg (pt had recent pneumonia but changes have cleared), 
UA neg. Pt was also given 3L of NS. 

ROS:
-Constitutional: []WNL []Weight loss [x]Fatigue/Malaise []Fever 
[]Chills/Rigors []Nightweats []Anorexia
-Eyes: [x]WNL []Blurry Vision []Diplopia []Loss of Vision 
[]Photophobia
-ENT: [x]WNL []Dry Mouth []Oral ulcers []Bleeding gums/nose 
[]Tinnitus []Sinus pain []Sore throat
-Cardiac: [x]WNL []Chest pain []Palpitations ___ edema 
[]Orthopnea/PND []DOE
-Respiratory: [x]WNL []SOB []Pleuritic pain []Hemoptysis []Cough
-Gastrointestinal: [x]WNL []Nausea []Vomiting []Abdominal pain 
[]Abdominal Swelling []Diarrhea []Constipation []Hematemesis 
[]Hematochezia []Melena
-Heme/Lymph: [x]WNL []Bleeding []Bruising []Lymphadenopathy
-GU: [x]WNL []Incontinence/Retention []Dysuria []Hematuria 
[]DIscharge []Menorrhagia
-Skin: [x]WNL []Rash []Pruritus
-Endocrine: [x]WNL []Change in skin/hair []Loss of energy 
[]Heat/Cold intolerance
-Musculoskeletal: []WNL []Myalgias []Arthralgias []Back pain
-Neurological: [] WNL [x]Numbness of extremities - old 
[x]Weakness of extremities - old[]Parasthesias 
[]Dizziness/Lightheaded []Vertigo []Confusion []Headache
-Psychiatric: [x]WNL []Depression []Suicidal Ideation
-Allergy/Immunological: [x] WNL []Seasonal Allergies

 
Past Medical History:
# CAD s/p PCI x 2 with a history of MI and angioplasty ___ years 
ago. His most recent cardiac catheterization was in ___ at ___ which revealed non-flow 
limiting three-vessel disease and no intervention was performed 
at that time  
# Atrial flutter/atrial tachycardia status post ablation in 
___ with breakthrough atrial tachycardia and atrial 
flutter  
# DM type II c/b neuropathy  
# PVD followed by Dr. ___  
# Colon Ca -- s/p partial colectomy ___, no radiation or 
chemotherapy  
# Neuropathy -- progressing to R arm now; legs unchanged, uses 
wheelchair  
# Spinal stenosis -- MRI performed ___, no emergent issues, 
but  
some retrolisthesis of L4-5  
# Concern for alcohol abuse  
 
Social History:
___
Family History:
No history of premature cardiac disease. Both parents died at ___ 
of "old age."
 
Physical Exam:
.
Physical Exam:
Appearance: NAD
Vitals:  T:97.3  BP:126/74 HR:74 RR: 20 O2: 97 % 2 liters O2
Eyes: EOMI, PERRL, noninjected, anicteric
ENT: Moist
Neck: No JVD, no LAD, 
Cardiovascular: RRR, nl S1/S2, II/VI SEM best at LLSB
Respiratory: CTA anteriorly
Gastrointestinal: soft, non-tender, non-distended,  normal bowel 
sounds
Musculoskeletal/Extremities: thin, cachectic, no edema in the 
bilateral extremities
Neurological: sleepy but arousable and oriented x3, fluent 
speech, sensation WNL, CNII-XII intact
Integument: warm, no rash, no ulcer
Psychiatric: appropriate, pleasant
Hematological/Lymphatic: No cervical, supraclavicular 
lymphadenopathy
GU: no CVAT

 
Pertinent Results:
___ 09:14PM   WBC-6.6 RBC-3.34* HGB-9.6* HCT-28.3* MCV-85 
MCH-28.9 MCHC-34.1 RDW-16.9*
___ 09:14PM   NEUTS-47.4* ___ MONOS-7.5 EOS-2.5 
BASOS-0.7
___ 09:14PM   PLT COUNT-364
___ 09:14PM   ___ PTT-33.3 ___
___ 09:14PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:14PM   CALCIUM-8.4 PHOSPHATE-3.1 MAGNESIUM-1.8
___ 09:14PM   CK-MB-NotDone
___ 09:14PM   cTropnT-<0.01
___ 09:14PM   ALT(SGPT)-10 AST(SGOT)-18 LD(LDH)-148 
CK(CPK)-25* ALK PHOS-78 TOT BILI-0.2
___ 09:14PM   GLUCOSE-63* UREA N-15 CREAT-0.7 SODIUM-133 
POTASSIUM-3.7 CHLORIDE-101 TOTAL CO2-20* ANION GAP-16
___ 09:21PM   GLUCOSE-63* LACTATE-2.7* NA+-132* K+-3.6 
CL--97* TCO2-21
___ 11:00PM   LACTATE-1.8
___ 11:37PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 11:37PM URINE  COLOR-Yellow APPEAR-Clear SP ___

CXR:  No acute cardiopulmonary process.

CT head: prelim read - no acute abn
 
Brief Hospital Course:
___ year old man with CAD, type 2 DM, wheelchair bound from 
polyneuropathy ___ DM and alcohol, and history of Afib/flutter 
after ablation presents with hypotension.

1. Afib/flutter: He had ablation once in ___ but had 
recurrences of afib/flutter thereafter. He is completely 
asymptomatic despite episodes of hypotension and or rapid 
ventricular rate because of paroxysmal Afib/flutter. Over last 
few months, he has been tried on several combinations of 
diltiazem and metoprolol. Most recent admission was for 
hypotension as well. He was on diltiazem 240 mg QD and 
Metoprolol 100 mg BID (increased prior to that ___ afib with 
rapid ventricular rate). During that admission, he was switched 
to only metoprolol 100 mg QID. During this admission, we 
decreased metoprolol to 100 mg TID and added Digoxin. We 
consulted the EP service and contacted his cardiologist. Despite 
frequent episodes of Afib/flutter with HR of 120, he was 
completely asymptomatic. He will be discharge on both Digoxin 
and metoprolol to 100 mg TID. The latter will be decreased to 
100 mg BID on ___. This will allow Digoxin to work prior to 
reducing the dose of Metoprolol. Metoprolol can be further 
weaned off by his PCP/Cardiologist. Per EP recommendations 
Digoxin level should be check post discharge and dose be 
adjusted accordingly. He was not on Coumadin because of 
continued alcohol use and H/O CNS Hemorrhage. On the floor, he 
had no evidence of altered mental status. His head CT was 
negative. His UA/CXR/WBC were also negative. He had no evidence 
of infection. His continued alcohol drinking can trigger his 
arrhythmia. We will arrange a close follow up with 
PCP/Cardiologist for the above adjustments ( ___ with 
his cardiologist).

2. Lactic acidosis - likely ___ ischemia from hypotension. This 
resolved with Fluids. He was given Vanc/Ceftaz in ED for lactic 
acidosis; however, he is afebrile, oriented, with negative 
UA/CXR and no symptoms of infection.

3. Hypotension - Likely ___ high doses of metoprolol and/or 
paroxysmal Afib with RVR despite taking metoprolol. 

4. Iron deficiency anemia: The iron deficiency noted on labs on 
___ with ferritin of 18. We advised out-patient colonoscopy 
given HX of colon cancer. He had none for the last ___ years.

5. Alcohol use/abuse: This concern was raised before by other 
providers. Per patient and caregiver, he has cut down on 
drinking but not interested in quitting altogether. He does not 
want to quit smoking too.

Total discharge time 56 minutes

 
Medications on Admission:
From the list sent over by caregiver 
1. ASA 325mg qD
2. Plavix 75mg QD
3. Lipitor 40mg QD
4. Gabapentin 100mg TID
5. Folic acid 1mg QD
6. MVI tab QD
7. Ferrous sulfate 325mg QD
8. Duloxetine EC 30mg QD
9. Thiamine 100mg QD
10. Metoprolol 100mg QID
11. lasix 20mg QD
12. Lantus 14 units QAM
13. Novolog sliding scale
14. Calcium w Vit D
15. B complex vitamin
16. Flaxeed
 
Discharge Medications:
1. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
5. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours).  
6. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

8. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. Nicotine 14 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).  
11. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
for 1 months.
Disp:*30 Tablet(s)* Refills:*0*
12. Metoprolol Tartrate 100 mg Tablet Sig: One (1) Tablet PO 
twice a day for 1 months: start on ___.
Disp:*60 Tablet(s)* Refills:*0*
13. Metoprolol Tartrate 100 mg Tablet Sig: One (1) Tablet PO 
three times a day for 3 days: Change to 2 time a day on 
___. .  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Paroxismal Atrial Fibrillation.

 
Discharge Condition:
Excellent

 
Discharge Instructions:
We changed your medications. We added Digoxin to control your 
heart rhythm. You will get appointment with your Cardiologist to 
check the Digoxin level to further adjust the dose. You will 
leave on Metoprolol 100 mg three times a day but this dose 
should be reduced to twice a day on ___. This time will 
allow the digoxin to work. Please call your PCP if you get 
palpitation, lightheadedness, dizziness, or any concerning 
symptom. You need to have Colonoscopy as you have anemia and 
history of colon cancer. Please have your PCP arrange for this. 
 
Followup Instructions:
___